US08835430B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine with 3-tert-butylaniline gave N2-(3-tert-butylphenyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. LCMS: ret. time: 23.82 min.; purity: 100%; MS (m/e): 353 (MH+); 1H NMR (CDCl3): δ 7.96 (1H, d, J=3 Hz), 7.61 (1H, ddd, J=7.5, 2.2 and 0.9 Hz), 7.49 (1H, t, J=2.5 Hz), 7.27 (1H, m), 7.18 (1H, t, J=8.1 Hz), 7.99 (1H, m), 6.94 (1H, s), 6.91 (1H, dd, J=7.5 and 2.5 Hz), 6.80 (1H, d, J=7.5 Hz), 6.72 (2H, m), 6.58 (1H, ddd, J=7.5, 2.5 and 0.9 Hz), 6.52 (1H, ddd, J=7.5, 2.5 and 0.9 Hz), 1.28 (9H, s).

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 3-tert-butylaniline | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
product | N2-(3-tert-butylphenyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C20H21FN4O
